US04188489
To a solution of 15.9 g of ethyl-β-amino-β-ethoxy acrylate in 30 ml of acetonitrile was added 7.1 g of ethyl isocyanate, and the resulting mixture was allowed to stand at room temperature for one day and one night. The acetonitrile was distilled away under reduced pressure. To the residue was added 100 ml of ether and the system then dried over anhydrous sodium sulfate. The ether was distilled away and the residue was distilled under reduced pressure. Thus, 14 g of ethyl-β-ethylureido-β-ethoxy acrylate of a boiling point of 127° to 130° C. was obtained.

reactant | ethyl-β-amino-β-ethoxy acrylate | 15.9 g | C(C=C)(=O)OOC(C)(N)CC | C7H13NO3
reactant | ethyl isocyanate | 7.1 g | C(C)N=C=O | C3H5NO
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | ethyl-β-ethylureido-β-ethoxy acrylate | 14 g | C(C=C)(=O)OOC(C)(NC(=O)NCC)CC | C10H18N2O4
